US05344843
Preparation of (E)-4-[3-[4-(4-fluorophenyl)-2-(1-methylethyl)-3-quinolinyl]-2-propenyloxy]-alpha-oxobenzeneacetic acid
As in Example 19, (E)-4-[3-[4-(4-fluorophenyl)-2-(1-methylethyl)-3-quinolinyl]-2propenyloxy]-alpha-oxobenzeneacetic acid methyl ester (0.84 g) in a mixture of methanol (10 mL) and tetrahydrofuran (1.5 mL) was treated with 1N sodium hydroxide (1.9 mL). The usual work up furnished 0.82 g of a solid, which was crystallized from ethyl acetate to yield 0.63 g of (E)-4-[3-[4-(4-fluorophenyl)-2-(1-methylethyl)-3-quinolin]-2-propenyloxy]-alpha-oxobenzeneacetic acid, mp 232°-234° C.

reactant | (E)-4-[3-[4-(4-fluorophenyl)-2-(1-methylethyl)-3-quinolinyl]-2propenyloxy]-alpha-oxobenzeneacetic acid methyl ester | 0.84 g | COC(C(C1=CC=C(C=C1)OC\C=C\C=1C(=NC2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)=O)=O | C30H26FNO4
reactant | sodium hydroxide | 1N, 1.9 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | (E)-4-[3-[4-(4-fluorophenyl)-2-(1-methylethyl)-3-quinolinyl]-2-propenyloxy]-alpha-oxobenzeneacetic acid | 0.82 g | FC1=CC=C(C=C1)C1=C(C(=NC2=CC=CC=C12)C(C)C)/C=C/COC1=CC=C(C=C1)C(C(=O)O)=O | C29H24FNO4
